US09388197B2
A.1.3.2. 2-Methyl-4,5,6,7-tetrahydrobenzo[d]thiazole-7-carboxylic acid
A mixture of methyl 2-methyl-4,5,6,7-tetrahydrobenzo[d]thiazole-7-carboxylate (59 mg, 0.28 mmol) and LiOH.H2O (14 mg, 0.33 mmol) in THF/MeOH/H2O (2.5 mL, 3:1:1) was stirred at RT for 2 h. The mixture was acidified to pH=3 and extracted with EtOAc. The comb. org. layers were dried over MgSO4, and conc. in vacuo.

reactant | methyl 2-methyl-4,5,6,7-tetrahydrobenzo[d]thiazole-7-carboxylate | 0.28 mmol, 59 mg | CC=1SC2=C(N1)CCCC2C(=O)OC | C10H13NO2S
reactant | LiOH.H2O | 0.33 mmol, 14 mg | O[Li].O
solvent | THF MeOH H2O | 2.5 mL | C1CCOC1.CO.O
product | 2-Methyl-4,5,6,7-tetrahydrobenzo[d]thiazole-7-carboxylic acid | CC=1SC2=C(N1)CCCC2C(=O)O | C9H11NO2S
